US06794384B1
6-Methoxy-1-methylnaphthalene
Tetrachloro-1,2-benzoquinone (3.6 g, 14.5 mmol) was added in one portion to a stirred solution of 6-methoxy-1-methyl-1,2-dihydronaphthalene (2.3 g, 13.2 mmol) in diethyl ether (20 ml). The reaction was concetrated down after 24h and purified by column chromatography using petroleum ether as eluent to gave the title compound as a white solid (1.2 g, 53%). 1H-NMR (250 MHz, CDCl3) 2.5 (s, 3H), 3.8 (s, 3H), 7.0-7.8 (m, 6H), 13C-NMR (250 MHz, CDCl3) 19.3, 55.2, 106.5, 118.1, 124.4, 125.2, 125.7, 126.2, 128.0, 134.2. 134.7, 157.3; Mass Spectrum (M+1) m/e=173.

reactant | Tetrachloro-1,2-benzoquinone | 14.5 mmol, 3.6 g | ClC1=C(C(=C(C(C1=O)=O)Cl)Cl)Cl | C6Cl4O2
reactant | 6-methoxy-1-methyl-1,2-dihydronaphthalene | 13.2 mmol, 2.3 g | COC=1C=C2C=CCC(C2=CC1)C | C12H14O
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | 6-Methoxy-1-methylnaphthalene | 1.2 g, 53% | COC=1C=C2C=CC=C(C2=CC1)C | C12H12O
